US04855420
Starting material prepared by reaction of 2-methoxypyrimidine with trimethyloxonium tetrafluoroborate in CH2Cl2 at ambient temperature for 4 hours to give 1-methyl-2-methoxypyrimidinium tetrafluoroborate.

reactant | 2-methoxypyrimidine | COC1=NC=CC=N1 | C5H6N2O
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-methyl-2-methoxypyrimidinium tetrafluoroborate | F[B-](F)(F)F.C[N+]1=C(N=CC=C1)OC | InChI=1S/C6H9N2O.BF4/c1-8-5-3-4-7-6(8)9-2;2-1(3,4)5/h3-5H,1-2H3;/q+1;-1
